US05104569
A Grignard reagent solution prepared from 0.8 g of magnesium, 10.3 g of (4-bromophenyl) octyl ether and 50 ml of tetrahydrofuran was added dropwise at 0°-5° C. within 30 minutes to a mixture of 7.5 g of crude 2-chloro-5-[(tetrahydro-2-pyranyloxy)methyl]pyridine, 75 ml of tetrahydrofuran and 0.36 g of 1,3-bis(diphenylphosphino)-propanenickel-(II) chloride. The reaction mixture was stirred for 3 hours, left to stand overnight, then adjusted to pH 8 with aqueous sodium hydrogen carbonate solution and diluted with diethyl ether. The organic phase was washed neutral with water, dried over sodium sulfate and concentrated. Chromatographic purification of the residue (14.6 g) on 210 g of silica gel with hexane/ethyl acetate (vol. 4:1) yielded 8.8 g of 2-[4-(octyloxy)-phenyl]-5-[(tetrahydro-2-pyranyloxy)methyl]pyridine.

reactant | magnesium | 0.8 g | [Mg] | Mg
reactant | (4-bromophenyl) octyl ether | 10.3 g | C(CCCCCCC)OC1=CC=C(C=C1)Br | C14H21BrO
reactant | 2-chloro-5-[(tetrahydro-2-pyranyloxy)methyl]pyridine | 7.5 g | ClC1=NC=C(C=C1)COC1OCCCC1 | C11H14ClNO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | 1,3-bis(diphenylphosphino)-propanenickel-(II) chloride | 0.36 g | CC(C)P(C1=CC=CC=C1)C2=CC=CC=C2.C1=CC=C(C=C1)PC2=CC=CC=C2.[Cl-].[Ni]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[4-(octyloxy)-phenyl]-5-[(tetrahydro-2-pyranyloxy)methyl]pyridine | 8.8 g | C(CCCCCCC)OC1=CC=C(C=C1)C1=NC=C(C=C1)COC1OCCCC1 | C25H35NO3
